US09278950B2
Step 1. Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate
A pressure vial was charged with benzyl (7-bromo-2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}quinolin-3-yl)carbamate (0.029 g, 0.043 mmol), K3PO4 (0.0181 g, 0.0852 mmol), 1,4-dioxane (0.55 mL), water (0.092 mL) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (0.014 g, 0.063 mmol). The mixture was deoxygenated with nitrogen for 10 min. Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.0022 g, 0.0028 mmol) was added. The mixture was sealed with screw cap, then heated at 90° C. for 1.5 h. The mixture was quenched with water and extracted with EtOAc. The combined organic extracts were dried and concentrated under reduced pressure. The residue was purified by flash chromatography on 20 g silica gel, eluting with 0-30% MeOH in EtOAc, to yield the sub-title compound (0.009 g, 30%). LCMS calc. for C40H48N7O5 [M+H]+: m/z=706.4. found: 706.5.

reactant | benzyl (7-bromo-2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}quinolin-3-yl)carbamate | 0.043 mmol, 0.029 g | BrC1=CC=C2C=C(C(=NC2=C1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(=O)OC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C34H37BrN6O5
reactant | K3PO4 | 0.0852 mmol, 0.0181 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 0.55 mL | O1CCOCC1 | C4H8O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 0.063 mmol, 0.014 g | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
catalyst | Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.0028 mmol, 0.0022 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
solvent | water | 0.092 mL | O | H2O
product | Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate | 0.009 g, 30% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCN(CC1)C | C40H47N7O5
